US04797391
Step B: Ethyl [(9-Amino-5,6-dichloro-3-oxo-9a(R)-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetate hydrochloride
A solution of ethyl [(9-azido-5,6-dichloro-3-oxo-9a(R)-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetate (2.229 g, 0.00517 mole) and triphenylphosphine (1.493 g, 0.00569 mole) in tetrahydrofuran (30 ml) was refluxed with stirring for 4 hours. Then, water (0.4 ml) was added and refluxing was continued for another 16 hours. After cooling and evaporating the solvents in vacuo, the residue was dissolved in ether, dried over sodium sulfate, filtered and the filtrate acidified with ethanolic hydrogen chloride. The solid that separated was removed by filtration, washed with hot ethanol and dried. The ethyl [(9-amino-5,6-dichloro-3-oxo-9a(R)-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetate hydrochloride weighed 940 mg; m.p. 261° C.(d).

reactant | ethyl [(9-azido-5,6-dichloro-3-oxo-9a(R)-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetate | 0.00517 mole, 2.229 g | N(=[N+]=[N-])C1C2=CC(=C(C(=C2C2=CC(CC[C@@]12CCC)=O)Cl)Cl)OCC(=O)OCC | C20H21Cl2N3O4
reactant | triphenylphosphine | 0.00569 mole, 1.493 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 0.4 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Ethyl [(9-Amino-5,6-dichloro-3-oxo-9a(R)-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetate hydrochloride | Cl.NC1C2=CC(=C(C(=C2C2=CC(CC[C@@]12CCC)=O)Cl)Cl)OCC(=O)OCC | InChI=1S/C20H23Cl2NO4.ClH/c1-3-6-20-7-5-11(24)8-13(20)16-12(19(20)23)9-14(17(21)18(16)22)27-10-15(25)26-4-2;/h8-9,19H,3-7,10,23H2,1-2H3;1H/t19?,20-;/m1./s1
